US08217069B2
2-Chloro-5-(1-methyl-1-phenylethylthio)aniline
To a mixture of water (10 mL) and concentrated sulfuric acid (10 mL) was added 2-chloro-5-mercaptoaniline (1.6 g) at room temperature, and the mixture was stirred for 15 minutes. To the mixture was added a solution of 2-phenyl-2-propanol (1.36 g) in tetrahydrofuran (10 mL) in a dropwise manner, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into ice water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=4/1) to give the title compound (1.62 g).

reactant | water | 10 mL | O | H2O
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-5-mercaptoaniline | 1.6 g | ClC1=C(N)C=C(C=C1)S | C6H6ClNS
reactant | 2-phenyl-2-propanol | 1.36 g | C1(=CC=CC=C1)C(C)(C)O | C9H12O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Chloro-5-(1-methyl-1-phenylethylthio)aniline | 1.62 g | ClC1=C(N)C=C(C=C1)SC(C)(C1=CC=CC=C1)C | C15H16ClNS
